US05225402
To N-(1-benzoyl-4-piperidinyl)-2-(2-carbamoylethyl)aniline (85 g) prepared in Reference Example 4 is added 5% hydrochloric acid (500 ml) and the mixture is refluxed for 5 hours. After cooling, the reaction mixture is extracted with diethyl ether and the aqueous layer is made alkaline with a 50% aqueous sodium hydroxide solution and extracted with ethyl acetate. The extract is dried over sodium carbonate and concentrated. The concentrate is purified by silica gel column chromatography (eluent; n-hexane/ethyl acetate=1/0-10/1) and recrystallized from ethanol/n-hexane to give 1-(1-benzoyl-4-piperidinyl)-3,4-dihydrocarbostyril (35 g) as white powders, m.p. 108°-111° C.

reactant | N-(1-benzoyl-4-piperidinyl)-2-(2-carbamoylethyl)aniline | 85 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)NC1=C(C=CC=C1)CCC(N)=O | C21H25N3O2
solvent | hydrochloric acid | 500 ml | Cl | ClH
product | 1-(1-benzoyl-4-piperidinyl)-3,4-dihydrocarbostyril | 35 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)N1C(=O)CCC2=CC=CC=C12 | C21H22N2O2
